US07304081B2
Step 1: Synthesis of tert-butyl 1,3,4,9-tetrahydro-2H-β-carboline-2-carboxylate
To a solution of 2,3,4,9-tetrahydro-1H-β-carboline (500 mg, 0.003 mol) in methylene chloride (10 mL, 0.2 mol) were added di-tert-butyldicarbonate (697 mg, 0.00319 mol) and N,N-diisopropylethylamine (0.607 mL, 0.00348 mol). The solution was stirred at room temperature for 2 hours. The reaction solution was diluted with AcOEt, then washed with saturated aqueous NaHCO3 solution, then dried with MgSO4, and then concentrated to give desired compound (780 mg, 100% yield). MS (ESI): 273.0 (M+H+).

reactant | 2,3,4,9-tetrahydro-1H-β-carboline | 0.003 mol, 500 mg | C1NCCC=2C3=CC=CC=C3NC12 | C11H12N2
reactant | methylene chloride | 0.2 mol, 10 mL | C(Cl)Cl | CH2Cl2
reactant | di-tert-butyldicarbonate | 0.00319 mol, 697 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N-diisopropylethylamine | 0.00348 mol, 0.607 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | tert-butyl 1,3,4,9-tetrahydro-2H-β-carboline-2-carboxylate | 780 mg, 100% yield | C1N(CCC=2C3=CC=CC=C3NC12)C(=O)OC(C)(C)C | C16H20N2O2
